US09120823B2
A mixture of 2-chloro-3-nitro-5-trifluoromethylpyridine (2.60 g), 2,2,2-trifluoroethylamine (0.79 g), N,N-diisopropylethylamine (1.04 g) and N-methyl-2-pyrrolidone (5 ml) was stirred at room temperature for 10 hours. To the reaction mixture was poured aqueous 10% citric acid solution, and then the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, and concentrated under reduced pressure to give (3-nitro-5-trifluoromethylpyridin-2-yl)-(2,2,2-trifluoroethyl)amine (1.83 g).

reactant | 2-chloro-3-nitro-5-trifluoromethylpyridine | 2.60 g | ClC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C6H2ClF3N2O2
reactant | 2,2,2-trifluoroethylamine | 0.79 g | FC(CN)(F)F | C2H4F3N
reactant | N,N-diisopropylethylamine | 1.04 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N-methyl-2-pyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | (3-nitro-5-trifluoromethylpyridin-2-yl)-(2,2,2-trifluoroethyl)amine | 1.83 g | [N+](=O)([O-])C=1C(=NC=C(C1)C(F)(F)F)NCC(F)(F)F | C8H5F6N3O2
